Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
latex
 
Attending: ___.
 
Chief Complaint:
Cat bite
 
Major Surgical or Invasive Procedure:
Bedside debridements by Hand Surgery on ___ and ___

 
History of Present Illness:
Mrs. ___ is a ___ year-old lady with no significant past 
medical history who is transferred from ___ for a cat 
bite.

Two days prior to admission she was bitten by her own cat in her 
right index finger as well as the dorsum of her left hand. The 
next day she noticed pain and swelling progressing rapidly. She 
was seen by her PCP who prescribed ___ and 
gave her a tetanus vaccine. As she felt worsening swelling 
especially in her right index she caller her PCP's office and 
was  referred to the ED.
At the ___ she had unremarkable CBC and chem-10, was 
given one dose of piperacillin-tazobactam and was referred to 
the ___ ED for hand surgery evaluation. 

In the ED, initial vitals:  20:36 98.4 | 71 | 143/81 | 18 | 100% 
RA 
No labs were drawn. Hand surgery was consulted who performed 
incisions at bedside with drainage of seropurulent discharge.  
Imaging, hand X-rays, showed left hand/right index soft tissue 
swelling without fracture or foreign body. 
She received  ampicillin-sulbactam 3g (2 doses), APAP 1g
She was re-evaluated in the morning by hand surgery who felt she 
should remain on IV antibiotics due to absence of improvement 
with plan for potential surgical drainage tomorrow AM.
Vitals prior to transfer:  98.1 | 75 | 120/76 | 18 | 99% RA
 
Past Medical History:
-Hyperlipidemia
-IBS

 
Social History:
___
Family History:
Non-contributory
 
 
Physical Exam:
ADMISSION
==========
VS:  98.0 | 139 / 78 | 72 | 18 | 99% RA 
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor  
NECK: Supple without LAD  
PULM: Generally CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema 
HANDS: 
LEFT upper extremity puncture wounds dorsum of the hand/wrist 
overlying the ___ carpal bones and extensor sheaths superficial 
swelling and erythema marching proximally up the radial forearm 
no crepitus present  
RIGHT second digit proximal phalanx puncture on radial aspect 
swelling of the PIP minimal pain overlying flexor sheath 
throughout the digit distally and proximally. FULL ROM in the 
second finger with good FDS/FDP function and extensor excursion. 
No Kanavel's signs present  
WWP neurologically intact  

DISCHARGE
==========
VS:  98 | 145/91 | 70 | 16 | 99% RA 
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor  
NECK: Supple without LAD  
PULM: Generally CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema 
HANDS: 
LEFT upper extremity puncture wounds dorsum of the hand/wrist 
overlying the ___ carpal bones and extensor sheaths superficial 
swelling and erythema marching proximally up the radial forearm 
no crepitus present  
RIGHT second digit proximal phalanx puncture on radial aspect 
swelling of the PIP minimal pain overlying flexor sheath 
throughout the digit distally and proximally. FULL ROM in the 
second finger with good FDS/FDP function and extensor excursion. 
No Kanavel's signs present  
WWP neurologically intact  
NEURO: CN II-XII grossly intact, motor function grossly normal  
SKIN: RL lip papulopustular lesion, slightly tender
 
Pertinent Results:
ADMISSION
==========
___ 09:53AM BLOOD WBC-7.4 RBC-4.13 Hgb-12.2 Hct-35.9 MCV-87 
MCH-29.5 MCHC-34.0 RDW-13.9 RDWSD-44.1 Plt ___
___ 09:53AM BLOOD Neuts-72.7* Lymphs-15.1* Monos-9.2 
Eos-1.9 Baso-0.7 Im ___ AbsNeut-5.38 AbsLymp-1.12* 
AbsMono-0.68 AbsEos-0.14 AbsBaso-0.05
___ 09:53AM BLOOD Plt ___
___ 09:53AM BLOOD Glucose-90 UreaN-16 Creat-0.9 Na-142 
K-4.2 Cl-105 HCO3-27 AnGap-14

DISCHARGE
=========
___ 07:23AM BLOOD WBC-5.1 RBC-4.13 Hgb-12.1 Hct-35.9 MCV-87 
MCH-29.3 MCHC-33.7 RDW-13.6 RDWSD-42.9 Plt ___
___ 07:23AM BLOOD Glucose-94 UreaN-14 Creat-0.9 Na-141 
K-4.0 Cl-104 HCO3-25 AnGap-16

IMAGING
========

FINGER(S),2+VIEWS RIGHT ___ 10:12 ___ 
Soft tissue swelling involving the index finger without 
radiopaque foreign body, or fracture. 

HAND (PA,LAT & OBLIQUE) LEFT ___ 10:12 ___ 
Soft tissue swelling involving the index finger without 
radiopaque foreign body, or fracture. 

 
Brief Hospital Course:
Mrs. ___ is a pleasant ___ year-old lady who was referred to 
___ for hand surgery evaluation after being seen at the 
___ Emergency Department for soft tissue infections 
involving both of her hand following a cat bite. 

#Cat bites/soft tissue infections: Was bitten by her cat in the 
dorsum of the left hand and her right index finger. Within 24h 
of the bite she developed marked edema, erythema, induration. 
Received tetanus vaccine and was started on 
___ by PCP then referred to ___ 
where she got one dose of Piperacillin-Tazobactam. Seen in the 
ED by Hand Surgery she underwent bedside debridement and 
admitted to medicine. She received 2 days of 
ampicillin-sulbactam 3g q6h iv while getting povidone iodine 
soaks TID. She underwent one additional bedside debridement on 
___. She was neurovascularly intact at all time and did not 
meet Kanaval's signs for tendonitis. 

#Impetigo, facial: Developed impetginous lesion in right lower 
lip on HD#2. Started on topical mupirocin 2% for 5 day course, 
showed improvement upon discharge.

#Antibiotic associated diarrhea: On HD#2 she had 2 loose bowel 
movements in the setting of iv ampicillin-sulbactam. Has history 
of non-specific lower GI symptoms, perhaps IBS. She did not have 
>4 loose BMs, leukocytosis or SIRS criteria so did not meet 
inpatient criteria for C.difficile testing. She is being 
discharged on S.boulardii 250mg bid during her antibiotic course 
for CDI prevention and GI flora equilibrium. 

TRANSITIONAL ISSUES:
-Will need to complete 7 days of ___, d1 
___ through ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 0.5 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1. LORazepam 0.5 mg PO QHS:PRN insomnia 
2. Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*30 Tablet Refills:*0
3. Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 7 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every twelve (12) hours Disp #*14 Tablet Refills:*0
4. Mupirocin Ointment 2% 1 Appl TP TID lip impetigo Duration: 5 
Days 
RX *mupirocin 2 % apply to affected area three times a day 
Refills:*0
5. Florastor (Saccharomyces boulardii) 250 mg oral BID Duration: 
7 Days 
RX *Saccharomyces boulardii [Florastor] 250 mg 1 capsule(s) by 
mouth twice a day Disp #*14 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY 
-Cat bite
-Soft tissue infection of the right index finger
-Soft tissue infection of the dorsum of the left hand
-Impetigo, facial

SECONDARY
-Insomnia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted due to an infection in your right index finger 
and the dorsum of your left hand following a cat bite. You had 
intravenous antibiotics for 2 days along with bedside drainages 
by hand surgery and betadine soaks with very significant 
improvement. You are now ready to transition to antibiotics by 
mouth which you should take up to an including ___. 
In the meantime you should continue soaking your hands in warm 
water with soak for 30min three times a day. Make sure to 
follow-up with Hand Surgery as below. 

It was a pleasure to take care of you, we wish you a quick 
recovery.

Your ___ Medicine Team
 
Followup Instructions:
___